US06013792
Alternatively, to a solution of (2R)-4-methyl-2-(t-butoxycarbonylmethyl)pentanoic acid as prepared above (2.39 g, 10.4 mmol), HOBt-H2O (2.5 g, 1 eq.), N-methylmorpholine (2.3 mL, 2 eq.), and (10S)-10-amino-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19), 13(18),14,16-tetraene (2.96 g, 1 eq.) in dry DMF (200 mL) under argon was added EDCI (3.96 g, 2.0 eq.). The resulting mixture was stirred overnight, then the next morning the DMF was removed at 35° C. under high vacuum. The residue was partitioned between CH2Cl2 (150 mL)/water (75 mL), then the organic layer was washed with 0.5N HCl (2×75 mL), saturated NaHCO3 (2×75 mL) and finally with brine (1×75 mL). After drying the CH2Cl2 layer over Na2SO4, it was filtered and evaporated to dryness. Purification by column chromatography (petroleum ether to 30% ethyl acetate/petroleum ether) gave (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester (3.24 g, 62.7%).

reactant | (2R)-4-methyl-2-(t-butoxycarbonylmethyl)pentanoic acid | CC(C[C@@H](C(=O)O)CC(=O)OC(C)(C)C)C | C12H22O4
reactant | HOBt H2O | 2.5 g, 1 eq. | C=1C=CC2=C(C1)N=NN2O.O
reactant | N-methylmorpholine | 2.3 mL, 2 eq. | CN1CCOCC1 | C5H11NO
reactant | 9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19), 13(18),14,16-tetraene | 2.96 g, 1 eq. | O=C1NCCCCCCN2C=3C=CC=CC3C(CC1)=C2 | C17H22N2O
reactant | EDCI | 3.96 g, 2.0 eq. | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (3R,10S)-5-methyl-3-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid t-butyl ester | 3.24 g, 62.7% | C(C)(C)(C)OC(C[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C29H43N3O4
